US06235778B1
f) 3-[3-(2-Chlorophenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine
A solution of 3-[3-(2-chlorophenylsulfonyloxy)-5-methylphenoxy]propoxyamine (0.43 g, 0.0012 mol), as prepared in the preceding step, in anhydrous N,N-dimethylformamide (15 mL) was treated with 1H -pyrazole-1-carboxamidine hydrochloride (0.34 g, 0.0034 mol). The reaction mixture was stirred overnight at ambient temperature. An additional 100 mg of 1H -pyrazole-1-carboxamidine hydrochloride was added, and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was evaporated to dryness under high vacuum. The residue was treated with acetonitrile, and the resulting crystalline material was collected by filtration and discarded. The filtrate was evaporated to dryness and partitioned between ether and water. The aqueous layer was washed with ether (4×25 mL). The aqueous layer was separated and basified with 2N sodium hydroxide, and the resultant aqueous layer was extracted with ethyl acetate (4×50 mL). The combined ethyl acetate extracts were washed with brine, dried, and evaporated to give 0.46 g of the title compound as an oil. 1H-NMR (300 MHz, CDCl3) δ7.94 (d, J=7.6 Hz, 1H), 7.54-7.62 (m, 2H), 7.34-7.40 (m, 1H), 6.57 (br s, 1H), 6.48 (m, 2H), 5.75 (br m, 2H), 3.96 (t, J=6.2 Hz, 4H), 2.21 (s, 3H), and 2.05 (pentet, J=6.2 Hz, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C17H20ClN3O5S: 4.14.1 (M+H). Found: 4.14.2

reactant | 3-[3-(2-chlorophenylsulfonyloxy)-5-methylphenoxy]propoxyamine | 0.0012 mol, 0.43 g | ClC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C16H18ClNO5S
reactant | pyrazole-1-carboxamidine hydrochloride | 0.0034 mol, 0.34 g | Cl.N1(N=CC=C1)C(=N)N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-[3-(2-Chlorophenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine | 0.46 g | ClC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCONC(=N)N)C=C(C1)C | C17H20ClN3O5S
